US04889857
By the use of 7-(2-chloromethylmorpholino)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and piperidine, the reaction is similarly carried out as Example 34 to give 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[2-(piperidinomethyl)morpholino]quinoline-3-carboxylic acid.

reactant | 7-(2-chloromethylmorpholino)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | ClCC1OCCN(C1)C1=C(C=C2C(C(=CN(C2=C1F)CC)C(=O)O)=O)F | C17H17ClF2N2O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[2-(piperidinomethyl)morpholino]quinoline-3-carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(OCC1)CN1CCCCC1)F)=O)C(=O)O | C22H27F2N3O4
